US05455273
d) trans-4-[4-(1-tert.butoxycarbonyl-methylaminoethyl)-phenyl]-N-methylcyclohexylamine
from 4-[4-(1-tert.butoxycarbonyl-methylaminoethyl)-phenyl]-cyclohexanone and methylamine. Oil. Rf value: 0.5 (alumina, ethyl acetate/methanol=10:1, v:v).

reactant | 4-[4-(1-tert.butoxycarbonyl-methylaminoethyl)-phenyl]-cyclohexanone | C(C)(C)(C)OC(=O)C(CNC)C1=CC=C(C=C1)C1CCC(CC1)=O | C20H29NO3
reactant | methylamine | CN | CH5N
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | trans-4-[4-(1-tert.butoxycarbonyl-methylaminoethyl)-phenyl]-N-methylcyclohexylamine | C(C)(C)(C)OC(=O)C(CNC)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)NC | C21H34N2O2
